US07767675B2
Step 2. 2-(quinolin-6-yloxy)acetaldehyde
6-(2,2-dimethoxyethoxy)quinoline (9.0 g) was dissolved in aqueous 1N hydrochloric acid (60 mL) and acetone (30 mL). The reaction mixture was heated under reflux for 3 h. Acetone was removed under reduced pressure. To the residue was added ethyl acetate, and the solution was neutralized with aqueous 1N NaOH. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated to afford the desired product which was used in the next step without further purification. (4.8 g) LCMS: (M+H2O)=205.9, and (M+MeOH)=219.9.

reactant | 6-(2,2-dimethoxyethoxy)quinoline | 9.0 g | COC(COC=1C=C2C=CC=NC2=CC1)OC | C13H15NO3
solvent | hydrochloric acid | 1N, 60 mL | Cl | ClH
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 2-(quinolin-6-yloxy)acetaldehyde | N1=CC=CC2=CC(=CC=C12)OCC=O | C11H9NO2
